US07790927B2
Thionyl chloride (72.65 g, 1.21 molar equivalents) was added to the stirred toluene solution of (1R,2R)-2-(3,4-difluorophenyl)-1-cyclopropanecarboxylic acid (18 wt %, net 100.00 g, 504.62 mmol). The mixture was stirred at 35° C. for 6 hours, then concentrated under reduced pressure to give a solution of (1R,2R)-2-(3,4-difluorophenyl)-1-cyclopropanecarbonyl chloride. To a mixture of 28% ammonia aqueous solution (122.55 g, 4.00 molar equivalents), water (300.4 g) and ethyl acetate (700.2 g), the solution of (1R,2R)-2-(3,4-difluorophenyl)-1-cyclopropanecarbonyl chloride obtained above was gradually added with stirring below 10° C. The reaction mixture was allowed to stir below 10° C. for 1 hour. The mixture was neutralized with 35% hydrochloric acid, then the organic layer was separated and washed with water. The resultant solution was concentrated azeotropically under reduced pressure to give a slurry of (1R,2R)-2-(3,4-difluorophenyl)-1-cyclopropanecarboxamide. The resultant slurry was heated to obtain a clear solution, and cooled for crystallization. Hexane was added to the slurry, then the precipitates were collected by filtration and dried to give (1R,2R)-2-(3,4-difluorophenyl)-1-cyclopropanecarboxamide (net 91.12 g, Yield: 92%).

reactant | Thionyl chloride | 1.21 molar, 72.65 g | S(=O)(Cl)Cl | Cl2OS
reactant | (1R,2R)-2-(3,4-difluorophenyl)-1-cyclopropanecarboxylic acid | 504.62 mmol, 100.00 g | FC=1C=C(C=CC1F)[C@H]1[C@@H](C1)C(=O)O | C10H8F2O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (1R,2R)-2-(3,4-difluorophenyl)-1-cyclopropanecarbonyl chloride | FC=1C=C(C=CC1F)[C@H]1[C@@H](C1)C(=O)Cl | C10H7ClF2O
